US04066655
Ethyl 1-methyl-8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate
A mixture of ethyl 8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate (0.5 g, 0.0016 mole), methyl iodide (0.5 g, 0.0035 mole) and potassium carbonate (0.23 g, 0.0017 mole) in dimethyl formamide (25 ml) was stirred at 100° for 3 hrs. under nitrogen. The reaction mixture was cooled. The product, which precipitated, was filtered, washed with water and dried. Recrystallization from DMF gave white crystals (0.47 g, 90%), m.p. 295°-297°.

reactant | ethyl 8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate | 0.0016 mole, 0.5 g | ClC=1C=CC2=C(C(C=3NC=C(C(C3O2)=O)C(=O)OCC)=O)C1 | C15H10ClNO5
reactant | methyl iodide | 0.0035 mole, 0.5 g | CI | CH3I
reactant | potassium carbonate | 0.0017 mole, 0.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-methyl-8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate | 0.47 g, 90% | CN1C2=C(C(C(=C1)C(=O)OCC)=O)OC1=C(C2=O)C=C(C=C1)Cl | C16H12ClNO5
